US08084623B2
To a stirred solution of 2-butyl-2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.753 g, 2.95 mmol) in THF (12 mL) at 0° C. and under nitrogen was added 3,4-dichlorophenylmagnesium bromide (11.8 mL of a 0.5 M solution in pentanes, 5.9 mmol) dropwise over 10 minutes. After 20 minutes, the reaction mixture was quenched by the addition of saturated aqueous NH4Cl (30 mL) then extracted with EtOAc. The combined extracts were washed with brine then dried (MgSO4), filtered and concentrated in vacuo to a yellow oil (1.9 g). Purification by chromatography (silica, 5-20% EtOAc in hexanes) gave 2-butyl-2-[(3,4-dichloro-phenyl)-hydroxy-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.548 g, 1.36 mmol, 46%) as a colourless gum and as an inseparable mixture of diastereomers

reactant | 2-butyl-2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.95 mmol, 0.753 g | C(C)(C)(C)OC(=O)N1C(CCC1)(C=O)CCCC | C14H25NO3
reactant | 3,4-dichlorophenylmagnesium bromide | ClC=1C=C(C=CC1Cl)[Mg]Br
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-butyl-2-[(3,4-dichloro-phenyl)-hydroxy-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.36 mmol, 0.548 g, 46% | C(C)(C)(C)OC(=O)N1C(CCC1)(C(O)C1=CC(=C(C=C1)Cl)Cl)CCCC | C20H29Cl2NO3
